US07884124B2
1.1.g) Synthesis of 4-phenylthiophene-3-carbaldehyde
The title compound was synthesized from iodobenzene and 4-formylthiophen-3-ylboronic acid using the conditions to synthesize 5-(4-chlorobenzyl)thiophene-2-carbaldehyde. Double elution by prep-TLC (10% heptane/DCM) allowed for the isolation of 4-phenylthiophene-3-carbaldehyde (300 mg, 48% yield). 1H NMR (400 MHz, CDCl3) δ ppm 7.32 (d, J=3.29 Hz, 1H), 7.39-7.50 (m, 5H), 8.27 (d, J=3.29 Hz, 1H), 9.87 (s, 1H); 13C NMR (100 MHz, CDCl3) δ 185.80, 143.82, 138.91, 134.68, 134.28, 129.30, 128.58, 128.05, 124.76.

reactant | iodobenzene | IC1=CC=CC=C1 | C6H5I
reactant | 4-formylthiophen-3-ylboronic acid | C(=O)C=1C(=CSC1)B(O)O | C5H5BO3S
reactant | 5-(4-chlorobenzyl)thiophene-2-carbaldehyde | ClC1=CC=C(CC2=CC=C(S2)C=O)C=C1 | C12H9ClOS
product | 4-phenylthiophene-3-carbaldehyde | 300 mg, 48% yield | C1(=CC=CC=C1)C=1C(=CSC1)C=O | C11H8OS
